US06232290B1
A solution of 4-(4-hydroxypiperidin-1-yl)benzoic acid ethyl ester (5.4 g), silver oxide (5.31 g) and 3-bromocyclohexene (3.24 ml) in tetrahydrofuran (52 ml) was stirred for 1 day at room temperature. The reaction mixture was filtered off, and the filtrate was concentrated by evaporation under reduced pressure. To the residue was added ethyl acetate, and the resulting precipitate was collected by filtration and dried. The residue was purified by silica gel chromatography (3:2 hexane-ethyl acetate elution) to give 4-[4-(2-cyclohexenyloxy)piperidin-1-yl]benzoic acid ethyl ester (3.84 g).

reactant | 4-(4-hydroxypiperidin-1-yl)benzoic acid ethyl ester | 5.4 g | C(C)OC(C1=CC=C(C=C1)N1CCC(CC1)O)=O | C14H19NO3
reactant | 3-bromocyclohexene | 3.24 ml | BrC1C=CCCC1 | C6H9Br
solvent | tetrahydrofuran | 52 ml | O1CCCC1 | C4H8O
catalyst | silver oxide | 5.31 g | [Ag]=O
product | 4-[4-(2-cyclohexenyloxy)piperidin-1-yl]benzoic acid ethyl ester | 3.84 g | C(C)OC(C1=CC=C(C=C1)N1CCC(CC1)OC1C=CCCC1)=O | C20H27NO3
